US05290780
2-Butyl-7-carboethoxy-4(1H)-quinazolinone
A mixture of 5.0 g of 2-butyl-7-carboxy-4(1H)-quinazolinone in 100 ml of absolute ethanol containing 2 ml of sulfuric acid is refluxed for 48 hours. The solvent is evaporated in vacuo and the residue partitioned between water and chloroform. The organic layer is washed with aqueous saturated sodium bicarbonate, dried with anhydrous sodium sulfate, filtered and evaporated to a residue which crystallizes from ethyl acetate-hexane to afford 4.5 g of the desired product, mp 145° C.

reactant | 2-butyl-7-carboxy-4(1H)-quinazolinone | 5.0 g | C(CCC)C=1NC2=CC(=CC=C2C(N1)=O)C(=O)O | C13H14N2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Butyl-7-carboethoxy-4(1H)-quinazolinone | 4.5 g | C(CCC)C=1NC2=CC(=CC=C2C(N1)=O)C(=O)OCC | C15H18N2O3
